US05366987
(d) Tridecanoic acid hydrazide
A solution of tridecanoic acid, methyl ester (24.63 g, 0.1078 mol), and anhydrous hydrazine (3.40 mL, 0.108 mol) in absolute ethanol (150 mL) was stirred at room temperature for 24 hours, then refluxed 2 days. The solution was allowed to cool, and the solid that crystallized was filtered off, washed, and dried in vacuo; yield 18.6 g (75%); mp 101°-104° C.

reactant | tridecanoic acid, methyl ester | 0.1078 mol, 24.63 g | C(CCCCCCCCCCCC)(=O)OC | C14H28O2
reactant | hydrazine | 0.108 mol, 3.40 mL | NN | H4N2
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | Tridecanoic acid hydrazide | C(CCCCCCCCCCCC)(=O)NN | C13H28N2O
